US05877355
Preparation of p-isododecylphenyl allyl ether (I)
Next, 363 grams (4.75M) of allyl chloride were added, and mixed with the fluid initial reaction product. The mixture was then heated to 63° C., and exothermed slowly to 73° C. A sample was taken at this point, then acidified and stripped under reduced pressure. TLC revealed the presence on the sample of a small amount of unreacted p-isododecylphenol.

reactant | allyl chloride | 4.75M, 363 grams | C(C=C)Cl | C3H5Cl
reactant | p-isododecylphenol | C(CCCCCCCCC(C)C)C1=CC=C(C=C1)O | C18H30O
product | p-isododecylphenyl allyl ether | C(C=C)OC1=CC=C(C=C1)CCCCCCCCCC(C)C | C21H34O
